US07829707B2
(b) 2-(2-Methoxyethoxy)-3-propoxybenzaldehyde
1-Iodopropane (3.09 mL, 31.60 mmol) was added to a solution of 3-hydroxy-2-(2-methoxyethoxy)benzaldehyde (3.1 g, 15.8 mmol) and potassium carbonate (4.37 g, 31.60 mmol) in DMF (80 mL) and the mixture was stirred at 100° C. overnight under a nitrogen atmosphere. The reaction mixture was partitioned between saturated ammonium chloride (aq.) and CH2Cl2. The organic phase was washed with brine, dried (Na2SO4) and concentrated to give the title compound in quantitative yield (3.8 g) as an oil. This material was used in the next step without further purification.

reactant | 1-Iodopropane | 31.60 mmol, 3.09 mL | ICCC | C3H7I
reactant | 3-hydroxy-2-(2-methoxyethoxy)benzaldehyde | 15.8 mmol, 3.1 g | OC=1C(=C(C=O)C=CC1)OCCOC | C10H12O4
reactant | potassium carbonate | 31.60 mmol, 4.37 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-(2-Methoxyethoxy)-3-propoxybenzaldehyde | quantitative yield | COCCOC1=C(C=O)C=CC=C1OCCC | C13H18O4
